US05391751
A) trans-6-Diethylphosphono-4-(1,2-dihydro-2-oxopyrid-1-yl)-2,2-dimethylchroman-3-ol
A mixture containing 5.6 g of 6-diethylphosphono-2,2-dimethyl-3,4-epoxychromane, 2.5 g of 2-hydroxypyridine and 4 drops of benzyltrimethylammonium hydroxide is refluxed for 48 hours. After the dioxane has been concentrated, the residue is taken up in methylene chloride and the mixture is washed twice with water and then dried over sodium sulfate and concentrated to dryness. Ethyl ether is added and the product crystallizes. After recrystallization from ethyl acetate, 1.5 g of the expected product are obtained. Melting point: 130° C. (capillary tube)

reactant | 6-diethylphosphono-2,2-dimethyl-3,4-epoxychromane | 5.6 g | C(C)OP(=O)(OCC)C=1C=C2C3C(C(OC2=CC1)(C)C)O3 | C15H21O5P
reactant | 2-hydroxypyridine | 2.5 g | OC1=NC=CC=C1 | C5H5NO
catalyst | benzyltrimethylammonium hydroxide | 4 drops | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | trans-6-Diethylphosphono-4-(1,2-dihydro-2-oxopyrid-1-yl)-2,2-dimethylchroman-3-ol | C(C)OP(=O)(OCC)C=1C=C2[C@H]([C@@H](C(OC2=CC1)(C)C)O)N1C(C=CC=C1)=O | C20H26NO6P
